US07855215B2
Intermediate IIa: 2,3-Dihydro-5-(6-chloro-4-pyrimidinyloxy)-N-[4-(4-morpholinyl)-3-(trifluoromethyl)phenyl]-1H-indole-1-carboxamide
A solution containing 5-amino-2-(4-morpholinyl)benzotrifluoride (3.16 g, 12.8 mmol) and triethylamine (2.48 mL, 17.8 mmol) in CH2Cl2 (87 mL) is added dropwise to a stirred solution of bis(trichloromethyl)carbonate (1.26 g, 4.25 mmol) in CH2Cl2 (43 mL) at 0° C. After 30 min, a solution containing 5-[(6-chloro-4-pyrimidinyl)oxy]-1H-indole (Intermediate IVa; 3.48 g, 14 mmol) and triethylamine (1.96 mL, 14 mmol) in CH2Cl2 (52 mL) is added dropwise. After stirring for a further 15 min an aqueous solution of ammonia (100 mL of 2.5%) is added and the mixture is extracted with CH2Cl2. The combined extracts are washed with saturated aqueous NaCl, dried (K2CO3) and the solvent is evaporated off under reduced pressure to afford a crude product which is recrystallised from EtOH to give the title compound as a colourless crystalline solid: NMR (400 MHz; DMSO-d6) δ 2.11 (m, 4H), 3.20 (t, J=8.3 Hz, 2H), 3.68 (m, 4H), 4.16 (t, J=8.5 Hz, 2H), 6.96 (dd, J=8.6 Hz, J=2.5 Hz, 1H), 7.09 (d, J=1.5 Hz, 1H), 7.28 (s, 1H), 7.52 (d, J=8.6 Hz, 1H), 7.84 (dd, J=8.8 Hz, J=2.5 Hz, 1H), 7.88 (d, J=8.8 Hz, 1H), 7.92 (d, J=2.3 Hz, 1H), 8.62 (s, 1H) and 8.77 (s, 1H).

reactant | 5-amino-2-(4-morpholinyl)benzotrifluoride | 12.8 mmol, 3.16 g | NC=1C=CC(=C(C1)C(F)(F)F)N1CCOCC1 | C11H13F3N2O
reactant | triethylamine | 17.8 mmol, 2.48 mL | C(C)N(CC)CC | C6H15N
reactant | bis(trichloromethyl)carbonate | 4.25 mmol, 1.26 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 5-[(6-chloro-4-pyrimidinyl)oxy]-1H-indole | 14 mmol, 3.48 g | ClC1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C12H8ClN3O
reactant | triethylamine | 14 mmol, 1.96 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 100 mL | N | H3N
solvent | CH2Cl2 | 87 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 43 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 52 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Dihydro-5-(6-chloro-4-pyrimidinyloxy)-N-[4-(4-morpholinyl)-3-(trifluoromethyl)phenyl]-1H-indole-1-carboxamide | ClC1=CC(=NC=N1)OC=1C=C2CCN(C2=CC1)C(=O)NC1=CC(=C(C=C1)N1CCOCC1)C(F)(F)F | C24H21ClF3N5O3
